US04650902
2-Oxocyclohexanesulfonamide
A solution of 16.7 g (0.1 mol) of morpholinocyclohexene in 200 ml of tetrahydrofuran was treated simultaneously, over a period of 2 hours, at -50° C., with solutions of 12.7 g (0.11 mol) of sulfamoyl chloride and 11.1 g (0.11 mol) of triethylamine each in 100 ml of tetrahydrofuran, the mixture was brought from -50° to 20° C. over a period of 2 hours and filtered, the filtrate was evaporated to dryness in vacuo and the residue was chromatographed on 400 g of silica gel with methylene chloride. After recrystallization from isopropanol, the main fraction yielded 9.7 g (54.8% of theory, based on enamine) of 2-oxocyclohexanesulfonamide of melting point 118°-119° C.

reactant | morpholinocyclohexene | 0.1 mol, 16.7 g | O1CCN(CC1)C1=CCCCC1 | C10H17NO
reactant | sulfamoyl chloride | 0.11 mol, 12.7 g | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | triethylamine | 0.11 mol, 11.1 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-Oxocyclohexanesulfonamide | O=C1C(CCCC1)S(=O)(=O)N | C6H11NO3S
